US05998433
c) Synthesis of N-(2-hydroxyethyl)-6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxamide
To a solution of 0.545 g (1.452 mmol) of 6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxylic acid, 98 mg (1.6 mmol) of 2-aminoethanol, 0.61 ml (4.4 mmol) of triethylamine and 1.40 ml (14.5 mmol) of carbon tetrachloride in 20 ml of acetonitrile, 1.14 g (4.36 mmol) of triphenylphosphine was added under ice-cooling, followed by stirring at room temperature for 4 hours. The reaction mixture was poured into aqueous sodium hydroxide and extracted with ethyl acetate 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=9/1); the resulting solid was washed with diethyl ether to yield the desired product.

reactant | 6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxylic acid | 1.452 mmol, 0.545 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CC3=C(CC2)C=C(O3)C(=O)O)C=C1 | C22H17NO5
reactant | 2-aminoethanol | 1.6 mmol, 98 mg | NCCO | C2H7NO
reactant | triethylamine | 4.4 mmol, 0.61 ml | C(C)N(CC)CC | C6H15N
reactant | carbon tetrachloride | 14.5 mmol, 1.40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triphenylphosphine | 4.36 mmol, 1.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-(2-hydroxyethyl)-6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxamide | OCCNC(=O)C1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)O1 | C24H22N2O5
